2143-01-02 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Got here, sat on cooling blanket, otherwise we did nothing for him. Oh
   wait, we did check his stool for c.diff and stopped his antibiotics.
   Spoke to family about prognosis.
   Slight episode of hypotension at 4:30am, 81/61, got 500cc bolus.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,400 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-1-2**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 38.1
C (100.6
   HR: 92 (89 - 104) bpm
   BP: 107/74(81) {82/54(61) - 130/86(90)} mmHg
   RR: 14 (12 - 20) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,391 mL
                                                                  1,012 mL
   PO:
             TF:
                                                                     80 mL
                                                                    322 mL
   IVF:
                                                                    191 mL
                                                                    601 mL
   Blood products:
   Total out:
                                                                  1,340 mL
                                                                  1,360 mL
   Urine:
                                                                  1,340 mL
                                                                    760 mL
   NG:
   Stool:
   600 mL
   Drains:
   Balance:
                                                                  1,051 mL
                                                                   -348 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   GeN: nods yes, no but mostly no
   Heart: Irregularly irregular, Distant heart sounds
   Lungs: CTAB
   Abd: Obese, BS+, Soft
   Ext: 4+ pitting edema in the RLE
   Labs / Radiology
   272 K/uL
   10.2 g/dL
   108 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.1 mEq/L
   11 mg/dL
   97 mEq/L
   133 mEq/L
   30.5 %
   7.7 K/uL
        [image002.jpg]
                             [**2143-1-2**]  03:40 AM
   WBC
   7.7
   Hct
   30.5
   Plt
   272
   Cr
   0.6
   Glucose
   108
   Other labs: PT / PTT / INR:19.0/82.1/1.7, Mg++:2.0 mg/dL, PO4:4.3 mg/dL
   Assessment and Plan
   50 y/o M with PMHx significant for atrial fibrillation, CAD, HTN, CHF,
   DM, obesity, and pontine and cerebellar infarcts, persistant fevers,
   s/p toot extraction transferred from floor for worsening fevers and
   AFib with RVR.
   # Fevers: Most likely central fevers given cultures have remained
   negative for several weeks and has not been septic at all. Would
   consider possible empyema given small effusion on CXR. Also consider
   lower extremity clot.
   - ultrasound L back for effusion and consider thoracentesis
   - sputum cultures
   - LE dopplers
   #Hypotension: Likely he is only volume down from insensible losses from
   his fevers as he has no elevated WBC or lactate and he responds quickly
   to small amounts of fluids without antibiotics.
   - IVF as needed.
   #Hyponatremia: Possibly SIADH given Hx of stroke vs. hypovolemic
   -Ulytes
   # Atrial Fibrillation - Recent RVR episode likely related to high
   fevers. Well controlled overnight, consider baclofen for central
   fevers.
   - APAP/ibuprofen/cooling blanket for fever control
   - continue metoprolol tartrate 25 mt PO TID, uptitrate as needed
   - heparin to coumadin bridge; coumadin at increased dose 10mg daily
   while subtherapeutic..
   - continue to monitor INR daily, increased coumadin to 10 mg daily (on
   [**1-1**]) as subtheraputic on 7.5 (from [**12-29**]).
   .
   # Diabetes Mellitus Type II - On tube feeds.  Well controlled.
   - continue NPH 30 units [**Hospital1 7**], HISS
   - QID accucheck
   # Recent Pontine and Cerebellar Strokes - No active issues. Pt opens
   eyes to verbal stimuli and can follow simple commands.
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:
   Lines:
   22 Gauge - [**2143-1-1**] 10:16 AM
   Prophylaxis:
   DVT: Heparin bridge to coumadin
   Stress ulcer:
   VAP:
   Comments: bisacodyl
   Communication:  Comments: [**Name (NI) 2116**] [**Name (NI) 11094**] (sister) [**Telephone/Fax (1) 12011**]
   Code status: Full code
   Disposition: Screen for rehab
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2143-1-1**] 08:00 PM 70 mL/hour
   Glycemic Control:
   Lines:
   22 Gauge - [**2143-1-1**] 07:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2143-01-02 10:56:00 Physician Attending Progress Note
Chief Complaint: Afib RVR
   HPI:
   50M s/p pontine and cerebellar CVA, back in ICU with afib RVR and mild
   HoTN in setting of persistent, likely central, fevers.
   24 Hour Events:
   Stable overnight.
   Family updated.
   BP 81/61; improved with 250ml bolus.
   Allergies:
   No Known Drug Allergies
   Infusions:
   Heparin Sodium - 1,400 units/hour
   Other medications:
   Insulin sliding scale
   Coumadin
   APAP/ibuprofen prn
   metoprolol
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-1-2**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 37.9
C (100.3
   HR: 95 (89 - 104) bpm
   BP: 117/78(87) {82/54(61) - 122/86(90)} mmHg
   RR: 16 (12 - 20) insp/min
   SpO2: 95%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  2,391 mL
                                                                  1,391 mL
   PO:
             TF:
                                                                     80 mL
                                                                    563 mL
   IVF:
                                                                    191 mL
                                                                    649 mL
   Blood products:
   Total out:
                                                                  1,340 mL
                                                                  1,660 mL
   Urine:
                                                                  1,340 mL
                                                                  1,060 mL
   NG:
   Stool:
   600 mL
   Drains:
   Balance:
                                                                  1,051 mL
                                                                   -269 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   SpO2: 95%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.2 g/dL
   272 K/uL
   108 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.1 mEq/L
   11 mg/dL
   97 mEq/L
   133 mEq/L
   30.5 %
   7.7 K/uL
        [image002.jpg]
                             [**2143-1-2**]  03:40 AM
   WBC
   7.7
   Hct
   30.5
   Plt
   272
   Cr
   0.6
   Glucose
   108
   Other labs: PT / PTT / INR:19.0/82.1/1.7, Mg++:2.0 mg/dL, PO4:4.3 mg/dL
   Micro: blood cultures, sputum culture - negative
   Assessment and Plan
   50yoM s/p embolic CVA (pontine/cerebellar); back in ICU with recurrent
   fevers, afib/RVR.
   1.       Fever:  Extensive work-up without ongoing source.  At this
   time, appears central in setting of  pontine lesion without clear
   source
   -  bedside ultrasound to assess for pleural effusion.
   - LENIs to evaluate for DVT as reason for persistent fevers.
   - No indication for antibiotics.
   2.       Atrial fibrillation:
   - metoprolol
   - heparin/coumadin: INR 1.7
   3.       Hypotension: Suspect hypovolemia in setting of insensible
   losses.  No evidence of sepsis.
   -  Plan 1L IVF to replete
   - increase fluids via PEG
   4.       Hyponatremia
 suspect hypovolemia
   - check urine electrolytes, osm
   - f/u post bolus of normal saline
   5.       Neuro: mental status at baseline
   - anticoagulation for afib
   ICU Care
   Nutrition:  Boost Glucose Control (Full) - [**2143-1-2**] 08:33 AM 70
   mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2143-1-1**] 07:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt, coumadin)
   Stress ulcer: PPI
   VAP:  Comments: Not on ventilator
   Communication:  Family updated yesterday.
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 20 minutes

2143-01-03 07:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Fevers
   24 Hour Events:
 URINE CULTURE - At [**2143-1-2**] 11:49 AM
 ULTRASOUND - At [**2143-1-2**] 02:09 PM
   LENES
 FEVER - 101.3
F - [**2143-1-2**] 12:00 PM
 CALLED OUT
   LENIs -> no DVT.  U lytes c/w ADH (FeNa 0.5, Na 142, Osm 885).  Na
   decreased 133 to 131 with 1L NS.  Neuro said no good treatment for
   central fevers other than cooling blanket.  U/S of chest: difficult
   study, but no clear effusion.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Heparin Sodium - [**2143-1-2**] 03:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2143-1-3**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.1
C (98.8
   HR: 89 (81 - 103) bpm
   BP: 103/71(78) {80/47(53) - 165/135(141)} mmHg
   RR: 12 (8 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,017 mL
                                                                    641 mL
   PO:
             TF:
                                                                  1,507 mL
                                                                    508 mL
   IVF:
                                                                  1,920 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  2,700 mL
                                                                  1,170 mL
   Urine:
                                                                  2,100 mL
                                                                  1,170 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                  1,317 mL
                                                                   -529 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: ///35/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   237 K/uL
   9.5 g/dL
   115 mg/dL
   0.5 mg/dL
   35 mEq/L
   4.0 mEq/L
   11 mg/dL
   99 mEq/L
   136 mEq/L
   28.5 %
   5.8 K/uL
        [image002.jpg]
                             [**2143-1-2**]  03:40 AM
                            [**2143-1-3**]  03:55 AM
   WBC
   7.7
   5.8
   Hct
   30.5
   28.5
   Plt
   272
   237
   Cr
   0.6
   0.5
   Glucose
   108
   115
   Other labs: PT / PTT / INR:19.4/72.9/1.8, Ca++:8.3 mg/dL, Mg++:2.1
   mg/dL, PO4:4.4 mg/dL
   Imaging: LENIS (wet read): No DVT bilaterally
   Microbiology: GRAM STAIN (Final [**2143-1-1**]):
         >25 PMNs and <10 epithelial cells/100X field.
         NO MICROORGANISMS SEEN.
      RESPIRATORY CULTURE (Preliminary):
         Commensal Respiratory Flora Absent.
         GRAM NEGATIVE ROD(S).    SPARSE GROWTH
   C.diff: Not processed due to leaking specimen
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 HYPOTENSION (NOT SHOCK)
 TACHYCARDIA, OTHER
   50 y/o M with PMHx significant for atrial fibrillation, CAD, HTN, CHF,
   DM, obesity, and pontine and cerebellar infarcts, persistant fevers,
   s/p toot extraction transferred from floor for worsening fevers and
   AFib with RVR.
   # Fevers: Most likely central fevers given cultures have remained
   negative for several weeks and has not been septic at all. Would
   consider possible empyema given small effusion on CXR. LENIS and
   bedside ultrasound of chest negative. Per neurology, no good treatment
   for central fevers besides a cooling blanket. No fever in close to 24
   hours.
   -Follow up cultures
   -Cooling blanket PRN
   #Hypotension: Likely he is only volume down from insensible losses from
   his fevers as he has no elevated WBC or lactate and he responds quickly
   to small amounts of fluids without antibiotics.
   - IVF as needed.
   #Hyponatremia: Urine lytes consistent with appropriate ADH release. Now
   resolved
   -Con
t to monitor
   .
   #Conjunctivitis: Continue erythromycin ointment x 5 days total
   .
   # Atrial Fibrillation - Recent RVR episode likely related to high
   fevers. Well controlled overnight, consider baclofen for central
   fevers.
   - APAP/ibuprofen/cooling blanket for fever control
   - continue metoprolol tartrate 25 mt PO TID, uptitrate as needed
   - heparin to coumadin bridge; coumadin at increased dose 10mg daily
   while subtherapeutic..
   - continue to monitor INR daily, increased coumadin to 10 mg daily (on
   [**1-1**]) as subtheraputic on 7.5 (from [**12-29**]).
   .
   # Diabetes Mellitus Type II - On tube feeds.  Well controlled.
   - continue NPH 30 units [**Hospital1 7**], HISS
   - QID accucheck
   # Recent Pontine and Cerebellar Strokes - No active issues. Pt opens
   eyes to verbal stimuli and can follow simple commands.
   ICU Care
   Nutrition: Tube feeds
   Glycemic Control:
   Lines:
   22 Gauge - [**2143-1-1**] 10:16 AM
   Prophylaxis:
   DVT: Heparin bridge to coumadin
   Stress ulcer:
   VAP:
   Comments: bisacodyl
   Communication:  Comments: [**Name (NI) 2116**] [**Name (NI) 11094**] (sister) [**Telephone/Fax (1) 12011**]
   Code status: Full code
   Disposition: Screen for rehab
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2143-1-3**] 05:53 AM 70 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2143-1-3**] 12:35 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:

2143-01-03 11:50:00 Physician Attending Progress Note
Chief Complaint: Fevers
   HPI:
   50yoM s/p CVA; with persistent fevers
   24 Hour Events:
   LENIs negative for DVT
   Stable overall, no significant change in status.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Infusions:
   Heparin Sodium - 1,450 units/hour
   Other ICU medications:
   Heparin Sodium - [**2143-1-2**] 03:07 PM
   Other medications:
   ASA
   Coumadin
   Insulin sliding scale/NPH
   E-mycin opth
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2143-1-3**] 11:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37
C (98.6
   HR: 88 (81 - 103) bpm
   BP: 110/74(82) {80/47(53) - 165/135(141)} mmHg
   RR: 15 (8 - 21) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  4,017 mL
                                                                  1,038 mL
   PO:
             TF:
                                                                  1,507 mL
                                                                    819 mL
   IVF:
                                                                  1,920 mL
                                                                    129 mL
   Blood products:
   Total out:
                                                                  2,700 mL
                                                                  1,770 mL
   Urine:
                                                                  2,100 mL
                                                                  1,770 mL
   NG:
   Stool:
                                                                    600 mL
   Drains:
   Balance:
                                                                  1,317 mL
                                                                   -732 mL
   Respiratory support
   O2 Delivery Device: Trach mask  (0.4)
   SpO2: 96%
   ABG: ///35/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), IR/IR
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.5 g/dL
   237 K/uL
   115 mg/dL
   0.5 mg/dL
   35 mEq/L
   4.0 mEq/L
   11 mg/dL
   99 mEq/L
   136 mEq/L
   28.5 %
   5.8 K/uL
        [image002.jpg]
                             [**2143-1-2**]  03:40 AM
                            [**2143-1-3**]  03:55 AM
   WBC
   7.7
   5.8
   Hct
   30.5
   28.5
   Plt
   272
   237
   Cr
   0.6
   0.5
   Glucose
   108
   115
   Other labs: PT / PTT / INR:19.6/49.8/1.8, Ca++:8.3 mg/dL, Mg++:2.1
   mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   50yoM s/p cerebellar/pontine CVA with persistent fevers despite
   extensive work-up.  Suspect central fevers given evaluation.
   1.       Fevers:
   - no evidence of infectious process
   - expect recurrence of fevers; can treat with APAP, cooling blanket
   - no indication for antibiotics
   2.       Afib:
   - continue metroprolol
   - heparin to coumadin bridge
   3.       Neuro: stable baseline mental status
   ICU Care
   Nutrition:  Boost Glucose Control (Full) - [**2143-1-3**] 05:53 AM 70
   mL/hour
   Glycemic Control:  Insulin sliding scale
   Lines:
   20 Gauge - [**2143-1-3**] 12:35 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments: Family to be updated
   Code status: Full code
   Disposition :Transfer to floor ; screening for nursing facility
   Total time spent:  20minutes